US07834012B2
4-chloro-6-thien-3-ylpyrimidine
Thiophene-3-boronic acid (2.6 g, 20 mmol) was combined with 4,6-dichloropyrimidine (3.6 g, 24 mmol, 1.2 eq), bis(triphenylphosphine)palladium(II)dichloride (200 mg), and 3.0 g sodium carbonate in a resealable pressure flask. Sixty mL of a mixed solvent (N,N-dimethyl formamide/dimethyl ether/methanol/water 1:1:0.3:0.4 mL) was added, and the solution was purged with nitrogen prior to sealing. The reaction mixture was heated at 130° C. for three hours. The crude reaction mixture was cooled, partitioned between water and ethyl acetate. The organic material was washed with brine and dried over sodium sulfate. After concentrating to half-volume in vacuo, the resultant slurry was allowed to stand overnight, and then filtered to collect a white solid, which was washed with a small volume of ethyl acetate. The combined organic filtrates were chromatographed on silica gel (eluting with a gradient of 0%->5%->20% ethyl acetate in hexanes) to produce a second crop of solid material. The combined yield for the two batches was 1.83 g (46% yield).

reactant | Thiophene-3-boronic acid | 20 mmol, 2.6 g | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | 4,6-dichloropyrimidine | 24 mmol, 3.6 g, 1.2 eq | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | sodium carbonate | 3.0 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II)dichloride | 200 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 4-chloro-6-thien-3-ylpyrimidine | 46% yield | ClC1=NC=NC(=C1)C1=CSC=C1 | C8H5ClN2S
